US04143055
(2,3-dihydro-6-methoxy-2-methyl-4-benzofuranyl)carbamic acid ethyl ester
55.75 grams of ethylchlorocarbonate in 100 cc of anhydrous benzene are gradually added at 5° C. to a stirred solution of 81 grams of 2,3-dihydro-6-methoxy-2-methyl-4-benzofuranamine and 46 cc of triethylamine in 700 cc of anhydrous benzene. At the end of the addition, the reaction mixture is slightly warmed and stirring is continued, at room temperature, for 3 hours. After this time the reaction mixture is refluxed for two hours, then cooled, washed with water, dried over Na2SO4 and concentrated to dryness yielding 95.81 grams (83.5 percent of theoretical) of the compound of the title B.p./0.4 mmHg 172° C.

reactant | ethylchlorocarbonate | 55.75 grams | C(C)OC(=O)Cl | C3H5ClO2
reactant | 2,3-dihydro-6-methoxy-2-methyl-4-benzofuranamine | 81 grams | COC=1C=C2C(CC(O2)C)=C(C1)N | C10H13NO2
reactant | triethylamine | 46 cc | C(C)N(CC)CC | C6H15N
solvent | benzene | 100 cc | C1=CC=CC=C1 | C6H6
solvent | benzene | 700 cc | C1=CC=CC=C1 | C6H6
product | (2,3-dihydro-6-methoxy-2-methyl-4-benzofuranyl)carbamic acid ethyl ester | C(C)OC(NC1=CC(=CC2=C1CC(O2)C)OC)=O | C13H17NO4
